US07084154B2
A solution of 4-methoxyphthalic acid dimethyl ester (3.1 g, Fluka, U.S.A.) in 10 mL methanol and 35 mL of a 1 M solution of aqueous sodium hydroxide was heated to reflux for 3 hours. The solution was allowed to cool to rt, acidified to pH 2 with 1 M hydrochloric acid, and extracted three times with ethyl acetate. The organic extractions were combined, dried over magnesium sulfate, and reduced in vacuo to cleanly yield 2.43 g of the corresponding diacid. The diacid (1.43 g) and 1.9 mL of acetic anhydride were dissolved in tetrahydrofuran and heated to reflux for 16 hours. The solvent was evaporated to give 5-methoxy-isobenzofuran-1,3-dione (1.25 g).

reactant | 4-methoxyphthalic acid dimethyl ester | 3.1 g | COC(C=1C(C(=O)OC)=CC(=CC1)OC)=O | C11H12O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 5-methoxy-isobenzofuran-1,3-dione | 1.25 g | COC=1C=C2C(OC(C2=CC1)=O)=O | C9H6O4
